US09238644B2
(b) tert-Butyl 3-(4-aminophenyl)azetidine-1-carboxylate (I7)
A suspension of 10% Pd/C (0.320 g) and tert-butyl-3-(4-nitrophenyl)azetidine-1-carboxylate (I6) (2.14 g, 7.68 mmol) in EtOAc (16 mL) was stirred under a hydrogen atmosphere for 18 hours. Additional 10% Pd/C (1.00 g) was added and stirring continued for a further 20 hours. The resulting mixture was filtered through a pad of Celite, washing with EtOAc, and the filtrate concentrated in vacuo to give the title compound I7 as a light yellow/cream solid (1.80 g, 94%); 1H NMR (300 MHz, CDCl3) δ 7.12 (d, J=8.3 Hz, 2H), 6.69 (dd, J=6.5, 1.9 Hz, 2H), 4.29 (t, J=8.7 Hz, 2H), 3.93 (dd, J=8.4, 6.1 Hz, 2H), 3.65 (brs, 2H), 1.55-1.68 (m, 1H), 1.48 (s, 9H). LCMS-B: rt 4.964 min; m/z 249 [M+H]+.

reactant | tert-butyl-3-(4-nitrophenyl)azetidine-1-carboxylate | 7.68 mmol, 2.14 g | C(C)(C)(C)OC(=O)N1CC(C1)C1=CC=C(C=C1)[N+](=O)[O-] | C14H18N2O4
solvent | EtOAc | 16 mL | CCOC(=O)C | C4H8O2
catalyst | Pd/C | 0.320 g | [Pd] | Pd
catalyst | Pd/C | 1.00 g | [Pd] | Pd
product | tert-Butyl 3-(4-aminophenyl)azetidine-1-carboxylate | NC1=CC=C(C=C1)C1CN(C1)C(=O)OC(C)(C)C | C14H20N2O2
